US05739336
A mixture of methyl 6-amino-1,3-benzodioxole-5-carboxylate (6.3 g, 32 mmol), concentrated sulfuric acid (7 mL) and water (35 mL) was cooled in an ice-bath and then a mixture of sodium nitrite (2.3 g, 33 mmol) and water (15 mL) was added. The mixture was diluted with 50 mL of water and added to a boiling solution of cupric sulfate pentahydrate (35 g, 140 mmol) and water (75 mL). The mixture was heated 10 minutes at boiling and then cooled in an ice-bath and extracted with diethyl ether (3×). The combined extracts were washed with water (4×) and brine (1×), dried. (K2CO3) and concentrated. The residue was purified by column chromatography eluting with hexane/ethyl acetate (98:2-97:3) to give methyl 6-hydroxy-1,3-benzodioxole-5-carboxylate (2.7 g, 14 mmol), m.p. 100°-101° C.

reactant | methyl 6-amino-1,3-benzodioxole-5-carboxylate | 32 mmol, 6.3 g | NC=1C(=CC2=C(OCO2)C1)C(=O)OC | C9H9NO4
reactant | sulfuric acid | 7 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 33 mmol, 2.3 g | N(=O)[O-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | water | 75 mL | O | H2O
solvent | water | 15 mL | O | H2O
solvent | water | 35 mL | O | H2O
product | methyl 6-hydroxy-1,3-benzodioxole-5-carboxylate | 14 mmol, 2.7 g | OC=1C(=CC2=C(OCO2)C1)C(=O)OC | C9H8O5
